US08334286B2
(R)-(+)-Hexahydropyrrolo[1,2-a]pyrazin-6(7H)-one
A mixture of (R)-(+)-2-benzylhexahydropyrrolo[1,2-a]pyrazin-6(7H)-one (2 g, 8.69 mmol), ammonium formate (3.83 g, 60.8 mmol) and 10% Pd/C (550 mg) in MeOH (90 ml) was refluxed for 3 hours. After cooling to room temperature, the catalyst was filtered off and the solvent evaporated under vacuum. The residue was purified by flash chromatography (DCM/MeOH/32% NH4OH, 70/30/3 respectively) to afford the title compound as a colourless oil (1.1 g, 90% yield).

reactant | (R)-(+)-2-benzylhexahydropyrrolo[1,2-a]pyrazin-6(7H)-one | 8.69 mmol, 2 g | C(C1=CC=CC=C1)N1C[C@@H]2N(CC1)C(CC2)=O | C14H18N2O
reactant | ammonium formate | 60.8 mmol, 3.83 g | C(=O)[O-].[NH4+]
solvent | MeOH | 90 ml | CO | CH4O
catalyst | Pd/C | 550 mg | [Pd] | Pd
product | (R)-(+)-Hexahydropyrrolo[1,2-a]pyrazin-6(7H)-one | 1.1 g, 90% yield | C1[C@@H]2N(CCN1)C(CC2)=O | C7H12N2O
